US07153848B2
To a solution of (methyl (13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-yl)-carboxylate), 5-(4-morpholinylcarbonyl) (25 mg, 0.05 mmol) in MeOH//THF (1:1, 1.6 mL) was added 1 M aqueous NaOH (0.80 mL). The reaction mixture was stirred and heated at 90° C. with microwave irradiation for 15 min in a sealed tube. The clear solution was diluted with H2O (1 mL), neutralized with 1M aqueous HCl (0.80 mL) and concentrated to remove organic solvents. The resultant solids were collected by filtration, washed with H2O and dried under vacuum to yield (13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-yl)carboxylic acid, 5-(4-morpholinylcarbonyl) (21 mg, 0.05 mmol, 85%) as a light yellow solid. 1HNMR (300 MHz, DMSO-d6) δ 8.19 (s, 1H), 7.87 (d, J=8.4 Hz, 1H), 7.63 (dd, J=8.4, 1.5 Hz, 1H), 7.60–7.47 (m, 3H), 7.29 (dd, J=7.0, 1.5 Hz, 1H), 4.84 (br s, 2H), 3.98–3.55 (m, 4H), 3.23–3.05 (m, 2H), 2.88–2.69 (m, 5H), 2.12–1.63 (m, 6H), 1.51–1.06 (m, 4H). LCMS: m/e 472 (M−H)−, ret time 1.39 min, column A, 3 minute gradient.

reactant | methyl (13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-yl)-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCNC3=C(C21)C=CC=C3)C(=O)OC | C24H26N2O2
reactant | NaOH | 1 M, 0.80 mL | [OH-].[Na+]
reactant | HCl | 1M, 0.80 mL | Cl | ClH
solvent | MeOH | 1.6 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | (13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-yl)carboxylic acid | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCNC3=C(C21)C=CC=C3)C(=O)O | C23H24N2O2
